US07662771B2
5-[4-(2-trifluoromethyl-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester
Combine 2-bromo-1-(2-trifluoromethyl-phenyl)-ethanone (6.6 g, 24.7 mmol) with 5-carbamoyl-pentanoic acid methyl ester (7.8 g, 49 mmol) and heat the neat mixture in a sealed vessel at 140-150° C. for about 4.5 hours. Cool the mixture, dilute with water, and extract with EtOAc. Dry the combined extracts over Na2SO4 and concentrate. Chromatography over silica gel (CH2Cl2) allows for recovery of 5-[4-(2-trifluoromethyl-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (3.47 g, 43%). MS (ES): (M+1)+ 328.2

reactant | 2-bromo-1-(2-trifluoromethyl-phenyl)-ethanone | 24.7 mmol, 6.6 g | BrCC(=O)C1=C(C=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | 5-carbamoyl-pentanoic acid methyl ester | 49 mmol, 7.8 g | COC(CCCCC(N)=O)=O | C7H13NO3
solvent | water | O | H2O
product | 5-[4-(2-trifluoromethyl-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | COC(CCCCC=1OC=C(N1)C1=C(C=CC=C1)C(F)(F)F)=O | C16H16F3NO3
